US08003811B2
Step B: Piperidin-4-yl nitrate hydrochloride
To a solution of tert-butyl 4-(nitrooxy)piperidine-1-carboxylate (2.10 g; 8.53 mmol) in DCM (15 ml) cooled to 0° C., HCl gas was bubbled for 2 hrs. The solvent was concentrated and the residue was treated with diethyl ether, affording the title compound which was used in subsequent steps without further purification.

reactant | tert-butyl 4-(nitrooxy)piperidine-1-carboxylate | 8.53 mmol, 2.10 g | [N+](=O)([O-])OC1CCN(CC1)C(=O)OC(C)(C)C | C10H18N2O5
reactant | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | Piperidin-4-yl nitrate hydrochloride | Cl.[N+](=O)(OC1CCNCC1)[O-] | InChI=1S/C5H10N2O3.ClH/c8-7(9)10-5-1-3-6-4-2-5;/h5-6H,1-4H2;1H
